US04897420
6-(4-Hydroxyphenyl)hexanoic acid (2 g) is subjected to catalytic reduction in the presence of 5% rhodium-carbon (500 mg) in ethanol (100 ml) at an initial hydrogen pressure of 10.1 kg/cm2. The catalyst is filtered off and the filtrate is concentrated under reduced pressure and subjected to silica gel column chromatography. Elution is carried out with 4% ethanol-chloroform to give three fractions. The first fraction is recrystallized from ether-ligroin to give 392 mg of cis-6-(4-hydroxycyclohexyl)hexanoic acid, m.p. 83°-85° C.

reactant | 6-(4-Hydroxyphenyl)hexanoic acid | 2 g | OC1=CC=C(C=C1)CCCCCC(=O)O | C12H16O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | rhodium-carbon | 500 mg | [C].[Rh]
product | cis-6-(4-hydroxycyclohexyl)hexanoic acid | 392 mg | O[C@H]1CC[C@H](CC1)CCCCCC(=O)O | C12H22O3
